US07407961B2
To a solution of 5-(6-acetyl-5-amino-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone (82 mg) in THF-MeOH (1:1, 2.0 ml), was added sodium borohydride (8.9 mg). The mixture was stirred st room temperature for 4 hours. 1N HCl (0.05 ml) was poured into the mixtre. Water and EtOAc were poured into the mixture and the organic layer was separated, washed with water and brine, and dried over MgSO4. The solvent was removed under reduced pressure. The residue was purified by column chromatography. The desired product was recrystallized from EtOH and dried in vacuo to give 5-[5-amino-6-(1-hydroxyethyl)-3-phenyl-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone (16 mg).

reactant | 5-(6-acetyl-5-amino-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone | 82 mg | C(C)(=O)C1=C(N=C(C(=N1)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1)N | C20H20N4O2
reactant | sodium borohydride | 8.9 mg | [BH4-].[Na+]
reactant | HCl | 1N, 0.05 ml | Cl | ClH
reactant | Water | O | H2O
solvent | THF MeOH | 2.0 ml | C1CCOC1.CO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-[5-amino-6-(1-hydroxyethyl)-3-phenyl-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone | 16 mg | NC=1N=C(C(=NC1C(C)O)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C20H22N4O2
